* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft3.asc
V1 a 0 6
D1 b c 1p
R1 a b 4
R2 0 c 2
.model D D
.lib C:\Users\david\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.backanno
.end
